US09371332B2
4-chloro-3-methyl-5-phenyl-1-(2-pyrrolidin-1-ylethyl)pyrazolo[3,4-c]pyridazine (Compound XIIId)
Compound XIIId was synthesized from 4-chloro-3-methyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazine and 2-(pyrrolidin-1-yl)ethanol following the general procedure for the Mitsunobu reaction described in Example 20.

reactant | 4-chloro-3-methyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C | C12H9ClN4
reactant | 2-(pyrrolidin-1-yl)ethanol | N1(CCCC1)CCO | C6H13NO
product | 4-chloro-3-methyl-5-phenyl-1-(2-pyrrolidin-1-ylethyl)pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C)CCN2CCCC2 | C18H20ClN5
